US05760246
(E)-N-Ethyl-9-(3-phenyl-2-propenyl)-9H-fluorene-9-carboxamide
A solution of 9-fluorene carboxylic acid (2.10 g, 10.0 mmol) in 50 mL of CH2Cl2 was treated with oxalyl chloride in dichloromethane (6.0 mL, 12.0 mmol) and two drops of DMF. After 0.75 h, the mixture was concentrated under reduced pressure to give a white solid. The solid was diluted with 50 mL of CH2Cl2, cooled to 0° C., treated with ethylamine (1.0 g, 22 mmol). The transparent yellow solution was stirred for 3 h at room temperature and diluted with ethyl acetate and water. The organic fraction was dried over Na2SO4 and concentrated to a white solid. The solid purified by trituration with hexanes and recrystalization from hot methanol to give 2.60 g (86%) of title compound as white flakes. mp 233°-234° C.

reactant | 9-fluorene carboxylic acid | 10.0 mmol, 2.10 g | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethylamine | 22 mmol, 1.0 g | C(C)N | C2H7N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dichloromethane | 12.0 mmol, 6.0 mL | ClCCl | CH2Cl2
product | (E)-N-Ethyl-9-(3-phenyl-2-propenyl)-9H-fluorene-9-carboxamide | 2.60 g, 86% | C(C)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)C\C=C\C1=CC=CC=C1 | C25H23NO
